US08975400B2
5-formyl-2-((2-(trifluoromethyl)pyrimidin-5-yl)oxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-(trifluoromethyl)pyrimidin-5-ol and 2-fluoro-5-formylbenzonitrile.

reactant | 2-(trifluoromethyl)pyrimidin-5-ol | FC(C1=NC=C(C=N1)O)(F)F | C5H3F3N2O
reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
product | 5-formyl-2-((2-(trifluoromethyl)pyrimidin-5-yl)oxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC=1C=NC(=NC1)C(F)(F)F | C13H6F3N3O2
